US07807709B2
N-(1-Hydroxymethyl-cyclopentyl)-acetamide
The title compound is prepared analogously as described for N-(2-hydroxy-1,1-dimethyl-ethyl)-acetamide from (1-amino-cyclopentyl)-methanol. MS (LC-MS): [M+H]+=158.2. tR (HPLC, Waters sun fire C18 column, 5-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow: 0.8 mL/min): 1.76 min.

reactant | N-(2-hydroxy-1,1-dimethyl-ethyl)-acetamide | OCC(C)(C)NC(C)=O | C6H13NO2
reactant | (1-amino-cyclopentyl)-methanol | NC1(CCCC1)CO | C6H13NO
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | N-(1-Hydroxymethyl-cyclopentyl)-acetamide | OCC1(CCCC1)NC(C)=O | C8H15NO2
